US07943658B2
(R)—N-(6-Cyano-2,2-dimethyl-2,3-dihydro-1H-inden-1-yl)-5-fluoro-1H-indole-2-carboxamide
A mixture of 5-fluoro-1H-indole-2-carboxylic acid (56.0 mg, 0.312 mmol), (R)-3-amino-2,2-dimethyl-2,3-dihydro-1H-indene-5-carbonitrile (39.0 mg, 0.209 mmol), BOP reagent (180 mg, 0.407 mmol), N-methylmorpholine (0.13 mL, 1.18 mmol) in DMF (0.5 mL) was stirred at 50° C. for 2 hr. The desired title product (55.6 mg, 76% yield) was isolated as a white solid by prep. HPLC. LCMS (M+H)+=348.33. 1H NMR (500 MHz, DMSO-d6) δ: 11.7 (s, 1H), 8.58 (d, J=8.8 Hz, 1H), 7.70 (d, J=7.7 Hz, 1H), 7.62 (s, 1H), 7.46 (d, J=7.7 Hz, 1H), 7.44 (dd, J=8.8, 5.0 Hz, 1H), 7.39 (d, J=9.9 Hz, 1H), 7.28 (s, 1H), 7.04 (t, J=9.35 Hz, 1H), 5.37 (d, J=9.35 Hz, 1H), 2.87 (dd, J=22.0, 16.5 Hz, 2H), 1.21 (s, 3H), 0.94 (s, 3H).

reactant | 5-fluoro-1H-indole-2-carboxylic acid | 0.312 mmol, 56.0 mg | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
reactant | (R)-3-amino-2,2-dimethyl-2,3-dihydro-1H-indene-5-carbonitrile | 0.209 mmol, 39.0 mg | N[C@@H]1C(CC2=CC=C(C=C12)C#N)(C)C | C12H14N2
reactant | BOP reagent | 0.407 mmol, 180 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 1.18 mmol, 0.13 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | (R)—N-(6-Cyano-2,2-dimethyl-2,3-dihydro-1H-inden-1-yl)-5-fluoro-1H-indole-2-carboxamide | 55.6 mg, 76% yield | C(#N)C1=CC=C2CC([C@H](C2=C1)NC(=O)C=1NC2=CC=C(C=C2C1)F)(C)C | C21H18FN3O
